### PR TITLE
[Merged by Bors] - feat(ProbabilityTheory): a new predicate HasLaw

### PR DESCRIPTION
**Pull request by EtienneC30**
Introduce a predicate `HasLaw X μ P` stating that the random variable `X` has law `μ` under the measure `P`. This is expressed as `P.map X = μ`. We also require `X` to be `P`-almost-everywhere measurable to avoid pathological cases.

from BrownianMotion

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/HasLaw.lean [hunk 1]
```diff
@@ -0,0 +1,116 @@
...
+    (hY : HasLaw Y ν μ) (hX : HasLaw X μ P) : HasLaw (fun ω ↦ Y (X ω)) ν P :=
+  hY.comp hX
+
+@[to_additive]
+lemma IndepFun.hasLaw_mul [IsFiniteMeasure P] {M : Type*} [Monoid M] {mM : MeasurableSpace M}
+    [MeasurableMul₂ M] {μ ν : Measure M} {X Y : Ω → M} (hX : HasLaw X μ P) (hY : HasLaw Y ν P)
+    (hXY : IndepFun X Y P) :
+    HasLaw (X * Y) (μ ∗ₘ ν) P where
+  map_eq := by
+    rw [hXY.map_mul_eq_map_mconv_map₀ hX.aemeasurable hY.aemeasurable, hX.map_eq, hY.map_eq]
```
Comment (DavidLedvinka) [inline Mathlib/Probability/HasLaw.lean]:
```suggestion
lemma IndepFun.hasLaw_mul {M : Type*} [Monoid M] {mM : MeasurableSpace M}
    [MeasurableMul₂ M] {μ ν : Measure M} [SigmaFinite μ] [SigmaFinite ν] 
    {X Y : Ω → M} (hX : HasLaw X μ P) (hY : HasLaw Y ν P) (hXY : IndepFun X Y P) :
    HasLaw (X * Y) (μ ∗ₘ ν) P where
  aemeasurable := hX.aemeasurable.mul hY.aemeasurable
  map_eq := by
    rw [hXY.map_mul_eq_map_mconv_map₀' hX.aemeasurable hY.aemeasurable, hX.map_eq, hY.map_eq]
    · simpa [hX.map_eq]
    · simpa [hY.map_eq]
```

This is slightly more general and nice in practice since in the use case for probability you will likely assume $$\mu$$ and $$\nu$$ are probability measures (so it should automatically synthesize)

File: Mathlib/Probability/HasLaw.lean [hunk 2]
```diff
@@ -0,0 +1,116 @@
...
+
+@[to_additive]
+lemma IndepFun.hasLaw_fun_mul [IsFiniteMeasure P] {M : Type*} [Monoid M] {mM : MeasurableSpace M}
+    [MeasurableMul₂ M] {μ ν : Measure M} {X Y : Ω → M} (hX : HasLaw X μ P) (hY : HasLaw Y ν P)
```
Comment (DavidLedvinka) [inline Mathlib/Probability/HasLaw.lean]:
```suggestion
lemma IndepFun.hasLaw_fun_mul {M : Type*} [Monoid M] {mM : MeasurableSpace M}
    [MeasurableMul₂ M] {μ ν : Measure M} [SigmaFinite μ] [SigmaFinite ν] 
```

File: Mathlib/Probability/HasLaw.lean [hunk 3]
```diff
@@ -0,0 +1,116 @@
...
+Authors: EtienneMarion
+-/
+import Mathlib.Probability.Moments.Covariance
+
+/-!
+# Law of a random variable
+
+We introduce a predicate `HasLaw X μ P` stating that the random variable `X` has law `μ` under
+the measure `P`. This is expressed as `P.map X = μ`. We also require `X` to be `P`-almost-everywhere
+measurable to avoid pathological cases.
```
Comment (DavidLedvinka) [inline Mathlib/Probability/HasLaw.lean]: Perhaps its worth mentioning somewhere in the doc that since `Measure.map` is defined to be `0` when `X` is not `P`-almost everywhere measurable, this case can only come up when `μ = 0`.

**Comment by kex-y** [comment]
Can you add a `HasPDF.HasLaw` instance?

**Comment by EtienneC30** [comment]
> Can you add a `HasPDF.HasLaw` instance?

I added
```lean
lemma HasPDF.hasLaw [h : HasPDF X P μ] : HasLaw X (μ.withDensity (pdf X P μ)) P where
  aemeasurable := h.aemeasurable
  map_eq := map_eq_withDensity_pdf X P μ
```

I did not make `HasLaw` a class because it seemed to me that it would lead to too much use of typeclass inference for reasoning, which I think is not its purpose. But maybe I am wrong about this, or maybe it could be made a class and only used as an instance argument in some specific situations, as is done with `IsClosed`.

**Comment by kex-y** [comment]
LGTM! 
maintainer merge

File: Mathlib/Probability/HasLaw.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+-/
+
+open MeasureTheory
+
+open scoped ENNReal
+
+namespace ProbabilityTheory
+
+variable {Ω 𝓧 : Type*} {mΩ : MeasurableSpace Ω} {m𝓧 : MeasurableSpace 𝓧} (X : Ω → 𝓧)
+  (μ : Measure 𝓧) (P : Measure Ω := by volume_tac)
```
Comment (sgouezel) [inline Mathlib/Probability/HasLaw.lean]: Could you move the declaration of `P` to `HasLaw`? I feel slightly uncomfortable with a variable line with an autoparam, and since you override it just below it shouldn't make a difference.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by EtienneC30** [comment]
Thanks!
bors merge

**Comment by EtienneC30** [comment]
bors merge
